US05658933
a) 3-Methoxybenzyl 3-(3-methoxybenzyloxy)pyridine-2-carboxylate
In analogy with Example 38a), 10 g of the product were obtained, as a colorless oil which was subjected to further reaction, from 8.4 g (60 mmol) of 3-hydroxypyridine-2-carboxylic acid and 3-methoxybenzyl chloride following chromatography on silica gel.

reactant | 3-hydroxypyridine-2-carboxylic acid | 60 mmol, 8.4 g | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | 3-methoxybenzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 3-Methoxybenzyl 3-(3-methoxybenzyloxy)pyridine-2-carboxylate | COC=1C=C(COC=2C(=NC=CC2)C(=O)OCC2=CC(=CC=C2)OC)C=CC1 | C22H21NO5
